US04424225
4,9-Dihydro-4-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one
3-chloro-4,9-dihydro-4-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one, prepared from 3-chloro-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and isonicotinic acid chloride hydrochloride via 3-chloro-4,9-dihydro-4-[(4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one and 3-chloro-4,9-dihydro-4-[(4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one methoiodide.

reactant | 3-chloro-4,9-dihydro-4-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC=1SC=C2C1N(C1=C(NC2=O)C=CC=C1)C(=O)C1=CCN(CC1)C | C18H16ClN3O2S
reactant | 3-chloro-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC=1SC=C2C1NC1=C(NC2=O)C=CC=C1 | C11H7ClN2OS
reactant | isonicotinic acid chloride hydrochloride | Cl.C(C1=CC=NC=C1)(=O)Cl
reactant | 3-chloro-4,9-dihydro-4-[(4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | ClC=1SC=C2C1N(C1=C(NC2=O)C=CC=C1)C(=O)C1=CC=NC=C1 | C17H10ClN3O2S
product | 4,9-Dihydro-4-[(1-methyl-1,2,5,6-tetrahydro-4-pyridinyl)carbonyl]-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | CN1CC=C(CC1)C(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C18H17N3O2S
